US05198427
Abrusogenin [10 mg] was methylated in ethereal diazomethane at room temperature overnight. On work-up, abrusogenin methyl ester [8 mg] was obtained as colorless prisms, after recrystallization in EtOAc, and was shown to be pure by tic in solvents 3 (Rf 0.71), 5 (Rf 0.56), and 6 (Rf 0.60). This derivative exhibited the following data: mp 246°-248°; [α]D +31.2° (c 0.08, CHCl3 -MeOH, 1:1); uv, (EtOH) end absorption; ir, νmax (KBr) 3529 (OH), 1710 (C=O), 1258, 1135, 1060, 1018 cm-1, 1H nmr, (360 MHz, CDCl3) δ 6.61 (1H, m, H-24), 4.50 (1H, dd, J=13.4 Hz, J=2.8 Hz, H-22), 4.10 (1H, dd, J=11.3 Hz, J=44 Hz, H-3), 3.71 (3H, s, 29-Ome), 2.57 (1H, m, H-23a), 1.91 (3H, br. s, 27-Me), 1.15 (3H, s, 30-Me), 1.00 (3H, d, J=6.8 Hz, 21-Me), 0.96 (3H, s, 18-Me), 0.93 (3H, s, 28-Me), 0.61, 0.39 (2H, d, J=4.2 Hz, 19-H2) ppm; 13C nmr, (90.8 MHz, CDCl3) δ 177.42 (s, C-29), 166.56 (s, C-26), 139.65 (d, C-24), 128.12 (s, C-25), 80.21 (d, C-22), 75.32 (d, C-3), 54.80 (s, C-4) 51.85 (q, 29-CH3), 48.79 (s, C-14), 47.85 (d, C-8), 47.42 (d, C-17), 45.20 (s, C-13), 44.30 (d, C-5), 40.05 (d, C-20), 35.40 (t, C-12), 32.58 (t, C-15), 31.43 (t, C-1), 29.88 (t, C-19), C-2), 27.85 (t, C-23), 27.55 (t, C-7), 26.32 (t, C-11), 25.52 (t, C-16), 25.04 (s, C-10), 23.07 (t, C-6), 19.91 (s, C-9), 19.38 (q, C-28), 17.86 (q, C-18), 17.14 (q, C-27), 12.82 (q, C-21), 9.26 (q, C-30) ppm; ei-ms, (70 ev) m/z 498 (M+, 1%), 480 (M+ -OH, 3), 465 (1), 448 (4), 421 (1), 367 (3), 314 (22), 299 (6), 247 (11), 215 (14), 199 (11), 173 (30), 147 (42), 133 (55), 119 (60), 111 (68), 107 (76), 105 (68), 95 (100) 81(72), 67 (39), 55 (48).

reactant | Abrusogenin | 10 mg | CC1=CC[C@H](OC1=O)[C@@H](C)[C@H]2CC[C@@]3([C@@]2(CC[C@]45[C@H]3CC[C@@H]6[C@]4(C5)CC[C@@H]([C@@]6(C)C(=O)O)O)C)C | C30H44O5
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | abrusogenin methyl ester | 8 mg | CC1=CC[C@H](OC1=O)[C@@H](C)[C@H]2CC[C@@]3([C@@]2(CC[C@]45[C@H]3CC[C@@H]6[C@]4(C5)CC[C@@H]([C@@]6(C)C(=O)OC)O)C)C | C31H46O5
